US04742057
To a mixture of 2-amino-4-[4-(3-indolyl)piperidinomethyl]thiazole (1.73 g), triethylamine (3.1 ml) and N,N-dimethylformamide (15 ml) was added dropwise a solution of mesyl chloride (0.86 ml) in methylene chloride (1 ml) at 5° to 7° C. with stirring. The mixture was further stirred at that temperature for 2 hours, after which a solution of mesyl chloride (0.34 ml) in methylene chloride (0.5 ml) was added. The reaction mixture was further stirred at the same temperature for 1.5 hours. Following addition of water (50 ml), the reaction mixture was extracted with a mixture of chloroform and methanol (60 ml, 10:1 V/V) twice. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (40 ml) and, then, 10% aqueous sodium hydroxide solution (20 ml) was added gradually thereto. The mixture was stirred at ambient temperature overnight. The reaction mixture was then adjusted to pH 7.0 with diluted hydrochloric acid and extracted with a mixture of chloroform and methanol (100 ml, 10:1 V/V). The organic layer was separated, washed with water, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to column chromatography on silica gel, followed by elution with a mixture of chloroform and methanol (10:1 V/V). The eluate gave 4-[4-(3-indolyl)piperidinomethyl]-2-mesylaminothiazole (480 mg).

reactant | 2-amino-4-[4-(3-indolyl)piperidinomethyl]thiazole | 1.73 g | NC=1SC=C(N1)CN1CCC(CC1)C1=CNC2=CC=CC=C12 | C17H20N4S
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | mesyl chloride | 0.86 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | mesyl chloride | 0.34 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 4-[4-(3-indolyl)piperidinomethyl]-2-mesylaminothiazole | 480 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NS(=O)(=O)C | C18H22N4O2S2
